US08486967B2
b) Ethyl 4-(6-methyl-2-(1-(6-methylpyrimidin-4-yl)piperidin-4-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-5,6-dihydropyridine-1(2H)-carboxylate
Prepared in analogy to example 164b, starting from 6-methyl-N-(1-(6-methylpyrimidin-4-yl)piperidin-4-yl)-8-(1,2,3,6-tetrahydropyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine and ethyl chloroformate. The title compound was obtained as a light yellow solid (yield: 36%) after column chromatography on silica gel using a gradient from methylene chloride to a mixture of methylene chloride/methanol 19:1 (v/v) as eluent.

reactant | 6-methyl-N-(1-(6-methylpyrimidin-4-yl)piperidin-4-yl)-8-(1,2,3,6-tetrahydropyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | CC=1C=C(C=2N(C1)N=C(N2)NC2CCN(CC2)C2=NC=NC(=C2)C)C=2CCNCC2 | C22H28N8
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl 4-(6-methyl-2-(1-(6-methylpyrimidin-4-yl)piperidin-4-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-5,6-dihydropyridine-1(2H)-carboxylate | CC=1C=C(C=2N(C1)N=C(N2)NC2CCN(CC2)C2=NC=NC(=C2)C)C2=CCN(CC2)C(=O)OCC | C25H32N8O2
